US05482947
a) Pyrrolidine carbamoyl chloride
A stirring solution of triphosgene (27.78 g, 0.103 mol) in 40 mL toluene was cooled to -20 ° C. in an ice/salt bath under a blanket of nitrogen and treated with a solution of N-methylmorpholine (27.3 g, 0.27 mol) in 20 mL of toluene dropwise over 1 h. This solution was then treated with a solution of pyrrolidine (19.8 g, 0.27 mol) in 30 mL of toluene over a period of 30 m. The solution was allowed to warm to room temperature, filtered and the filtrate concentrated in vacuo to give an oil that was purified by vacuum distillation through a 12" Vigeraux column to give 20.7 g, 56%, bp 58° C. @0.6 mm, of pure product.

reactant | triphosgene | 0.103 mol, 27.78 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-methylmorpholine | 0.27 mol, 27.3 g | CN1CCOCC1 | C5H11NO
reactant | pyrrolidine | 0.27 mol, 19.8 g | N1CCCC1 | C4H9N
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Pyrrolidine carbamoyl chloride | C(N)(=O)Cl.N1CCCC1 | InChI=1S/C4H9N.CH2ClNO/c1-2-4-5-3-1;2-1(3)4/h5H,1-4H2;(H2,3,4)
